reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[H:7][H:9].[O:1]=[C:2]=[C:3]([O:4][C:5](=[O:6])[H:10])[H:8],78.4486357560493
[N:1]([C:2]([C:3](=[N+:4]=[N-:5])[H:9])=[O:6])([H:7])[H:8]>>[N:1](=[C:2](\[C-:3]([N+:4]#[N:5])[H:9])[O:6][H:7])\[H:8],43.5502820148951
[C:1]([O:2][N:5]=[C:3]=[O:4])([H:6])([H:7])[H:8].[H:9][H:10]>>[C:1]([O:2][C:3](=[O:4])[N:5]([H:9])[H:10])([H:6])([H:7])[H:8],36.44434505436081
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:6](=[C:5])[H:14])([H:7])([H:8])[H:9],62.37383223812429
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]2([C:3]([H:11])([H:12])[C:4]2([H:13])[H:14])[O:5][C@:6]1([O:7][H:9])[H:15],96.7265799166667
[C:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:15])([H:11])[H:14])([H:8])([H:9])[H:10].[H:12][H:13]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],78.78541581790319
[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[H:10])([H:7])[H:8].[C:4]1([H:14])([H:15])[C:5]([H:9])=[N:6]1>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],44.39380892438989
[O:1]([C:2]1([H:9])[C:3]([H:10])=[C:4]1[H:12])[H:8].[O:5]=[C:6]([O:7][H:11])[H:13]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],35.381348128563204
[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([O:6][H:14])([H:7])([H:8])[H:9].[C:2]1([H:10])=[C:5]([H:13])[C:3]1([O:4][H:12])[H:11],112.08783143940398
[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8]>>[C:1]([C:2][C:4]([O:5][C:3]([H:9])([H:10])[H:11])([H:12])[H:13])([H:6])([H:7])[H:8],114.694703608182
[C:1]([C:2]([O:3][H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5](=[O:6])[H:14])([H:12])([H:13])[H:15]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],76.82982763167227
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]1([H:8])([H:9])[C:2]([C:6](=[C:5]([H:14])[H:15])[H:16])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:7]1[H:17],69.3044786650558
[C:1]([C-:2]=[C:3]([C+:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],39.466230682406405
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[O:7])[H:11])([H:8])([H:9])[H:10].[C:6]([H:12])([H:13])([H:14])[H:15],91.77121029770728
[C:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]#[N:4])[H:10])([H:8])[H:9].[C:5]=[N:6][H:7],112.129519075487
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:5]1[C:4]([H:9])([H:10])[N:3]([H:8])[C:2]([H:7])=[N:6]1,120.96106850039
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3][N:5]([C:4]([C:6](=[O:7])[H:14])([H:11])[H:12])[H:13])([H:9])[H:10])[H:8],75.436286616991
[C:1]([O:2][C:3](/[C:4]([O:5][H:12])=[N:6]\[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],30.679277035435895
[C:1]([C:2]([N:3]=[O:4])([C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[N:3][O:4][H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8],63.03732716273029
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[O:1]([C@@:2]([C:3]([H:9])([H:10])[H:11])([C-:4]=[C:5]=[C+:6][H:12])[H:8])[H:7],63.018865195996895
[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4](=[C:5]=[C:6]([H:13])[H:14])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],79.78493852265099
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([N+:7]#[C-:6])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],60.7144302527528
[C:1]([H:8])([H:9])([H:10])[H:12].[C@:2]12([H:11])[C:3](=[O:4])[C:5]1=[C:6]2[C:7]([H:13])([H:14])[H:15]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],32.3838306793687
[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]=[C:3]=[O:4])([H:6])([H:7])[H:8].[C:5]([H:9])([H:10])([H:11])[H:12],80.4869286599332
[C:1]([C@:2]1([H:10])[C@@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C:5]1)([H:7])([H:8])[H:9].[O:6]([H:15])[H:16]>>[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9],8.818177235540105
